US06498163B1
A mixture of 8-ethyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (140 mg, 0.59 mmol) and 500 μL of 2-methoxyaniline was heated at 175° C. for 20 minutes. The reaction mixture was cooled to room temperature and partitioned between chloroform and saturated sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate. Recrystallization from ethyl acetate and hexane provided 60 mg (34%) of 8-ethyl-2-(2-methoxyphenyl-amino)-8H-pyrido[2,3-d]pyrimidin-7-one, mp 126-128° C.

reactant | 8-ethyl-2-methylsulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.59 mmol, 140 mg | C(C)N1C(C=CC2=C1N=C(N=C2)S(=O)C)=O | C10H11N3O2S
reactant | 2-methoxyaniline | 500 μL | COC1=C(N)C=CC=C1 | C7H9NO
product | 8-ethyl-2-(2-methoxyphenyl-amino)-8H-pyrido[2,3-d]pyrimidin-7-one | 60 mg, 34% | C(C)N1C(C=CC2=C1N=C(N=C2)NC2=C(C=CC=C2)OC)=O | C16H16N4O2
